US04547581
9-Chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide
A mixture of 0.4 g (1.1 mmol) of 8-chloro-1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one and 1.0 g (9.6 mmol) of formamidine acetate in 20 ml of formamidine was heated on a steam bath for 7 hr. The mixture was poured over ice and extracted with methylene chloride. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure. The residue was triturated with ether to give an off-white solid, mp 215°-217° C.

reactant | 8-chloro-1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one | 1.1 mmol, 0.4 g | ClC1=CC2=C(C(C(CN=C2C2=C(C=CC=C2)Cl)=CN(C)C)=O)C=C1 | C19H16Cl2N2O
reactant | formamidine acetate | 9.6 mmol, 1.0 g | C(C)(=O)O.C(=N)N
solvent | formamidine | 20 ml | C(=N)N | CH4N2
product | 9-Chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide | ClC1=CC2=C(C3=C(C[N+](=C2C2=C(C=CC=C2)Cl)[O-])C=NC=N3)C=C1 | C18H11Cl2N3O
